US07253154B2
(1) 3-Cyano-4-isobutyloxy-N-(3-methoxyphenyl)benzamide Dichloromethane
(20 mL) was added to a mixture of 3cyano-4-isobutyloxybenzoic acid (2.19 g, 10 mmol), m-anisidine (1.85 g, 15 mmol), 1-[3-(dimethylamino)propyl]3-ethylcarbodiimide hydrochloride (WSC•HCl, 3.83 g, 20 mmol), and 4-(dimethylamino)pyridine (244 mg, 2.0 mmol). The resulting mixture was then stirred for 21 hours at room temperature. To the mixture was added aqueous 1M hydrochloric acid (30 mL), and the resulting mixture was extracted with ethyl acetate (40 mL). The ethyl acetate portion was washed with aqueous saturated sodium hydrogen carbonate, dried over anhydrous magnesium sulfate, and placed under reduced pressure to distill the solvent off. The residue was recrystallized from toluene, to give 2.87 g (yield 89%) of the desired compound in the form of a crystalline product.

reactant | 3cyano-4-isobutyloxybenzoic acid | 10 mmol, 2.19 g | C(#N)C=1C=C(C(=O)O)C=CC1OCC(C)C | C12H13NO3
reactant | m-anisidine | 15 mmol, 1.85 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | 1-[3-(dimethylamino)propyl]3-ethylcarbodiimide hydrochloride | 20 mmol, 3.83 g | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 1M, 30 mL | Cl | ClH
catalyst | 4-(dimethylamino)pyridine | 2.0 mmol, 244 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-Cyano-4-isobutyloxy-N-(3-methoxyphenyl)benzamide Dichloromethane | 2.87 g, yield 89% | ClCCl.C(#N)C=1C=C(C(=O)NC2=CC(=CC=C2)OC)C=CC1OCC(C)C | InChI=1S/C19H20N2O3.CH2Cl2/c1-13(2)12-24-18-8-7-14(9-15(18)11-20)19(22)21-16-5-4-6-17(10-16)23-3;2-1-3/h4-10,13H,12H2,1-3H3,(H,21,22);1H2
